US04992559
A solution of 3(bromomethyl)thiophene (6.2 g, 0.035 mol) in carbon tetrachloride (25 ml) was added to a solution of sodium methoxyethoxide (8.9 g, 0.09 mol) in methoxyethanol (90 ml) and the mixture was heated under reflux for 2 hours. After cooling to room temperature, the solvent mixture was removed under reduced pressure and the resultant oil was dissolved in dichloromethane (100 ml), extracted with distilled water (2×100 ml) and dried over potassium carbonate. After removal of the solvent, the crude oil was distilled under reduced pressure to yield 3-(methoxyethoxymethyl)thiophene (3.0 g, 50%), B.p. 100°-101° C./10 mm Hg. (Found: C, 55.0; H, 6.3; S, 17.6. Calculated for C8H12O2S: C, 55.8; H, 7.0; S, 18.6%); EI m/e Intensity (%): 172 (5, M+), 97 (12, C4H3S.CH2); δH(CDCl3): 7.05-7.24 (3H, m), 4.53 (2H, s), 3.54 (4H, m) and 3.34 (3H, s); δC(CDCl3): 59.6, 67.0, 69.7, 72.5, 123.4, 126.5, 127.9, 140.0 ppm.

reactant | 3(bromomethyl)thiophene | 0.035 mol, 6.2 g | BrCC1=CSC=C1 | C5H5BrS
reactant | sodium methoxyethoxide | 0.09 mol, 8.9 g | COC([O-])C.[Na+]
reactant | methoxyethanol | 90 ml | COC(C)O | C3H8O2
solvent | carbon tetrachloride | 25 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 3-(methoxyethoxymethyl)thiophene | 3.0 g, 50% | COCCOCC1=CSC=C1 | C8H12O2S
